US06562989B2
A 4 mL vial was charged with 4-(2-bromophenyl)-2-methyl-2-butanol (97 mg, 0.40 mmol), Pd(dba)2 (11.5 mg, 0.02 mmol), Ph5FcP(t-Bu)2 (14.2 mg, 0.02 mmol) and sodium t-butoxide (46 mg, 0.48 mmol). Anhydrous toluene (2 mL) was added into the vial, and the vial was sealed with a cap containing a PTFE septum and removed from the drybox. The reaction mixture was stirred at room temperature for 10 min. The reaction solution was adsorbed onto silica gel and isolated by eluting with 5% ethyl acetate in hexanes to give 60 mg (93%) of 2,2-dimethylchroman as a colorless oil.

reactant | 4-(2-bromophenyl)-2-methyl-2-butanol | 0.40 mmol, 97 mg | BrC1=C(C=CC=C1)CCC(C)(O)C | C11H15BrO
reactant | sodium t-butoxide | 0.48 mmol, 46 mg | CC(C)([O-])C.[Na+]
catalyst | Pd(dba)2 | 0.02 mmol, 11.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 2,2-dimethylchroman | 60 mg, 93% | CC1(OC2=CC=CC=C2CC1)C | C11H14O
